US08957068B2
Under N2 atmosphere, 1-(4-(4-fluorophenoxy)pyrimidin-2-yl)ethanol (140 mg, 0.598 mmol) was dissolved in 3 mL anhydrous DCM. Triethylamine (0.175 mL, 1.26 mmol) was added, and the mixture was cooled to 0° C. MsCl (0.070 mL, 0.897 mmol) was added, and the mixture was stirred 15 minutes. Maintaining 0° C., DCM solvent was removed under N2 stream. Residue was taken up in 2 mL dry DMF. NaN3 (78 mg, 1.19 mmol) added, and the reaction was stirred at rt for 24 h. Mixture was poured into 20 mL water, and extracted with 20 mL EtOAc. Organic layer was washed with 20 mL brine and dried over Na2SO4. Filtered and concentrated to give 120 mg (77%) 2-(1-azidoethyl)-4-(4-fluorophenoxy)pyrimidine as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 8.49 (d, J=5.7 Hz, 1H), 7.16-6.90 (m, 4H), 6.70 (d, J=5.7 Hz, 1H), 4.34 (q, J=6.9 Hz, 1H), 1.55-1.46 (m, 3H).

reactant | 1-(4-(4-fluorophenoxy)pyrimidin-2-yl)ethanol | 0.598 mmol, 140 mg | FC1=CC=C(OC2=NC(=NC=C2)C(C)O)C=C1 | C12H11FN2O2
reactant | Triethylamine | 1.26 mmol, 0.175 mL | C(C)N(CC)CC | C6H15N
reactant | MsCl | 0.897 mmol, 0.070 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaN3 | 1.19 mmol, 78 mg | [N-]=[N+]=[N-].[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | 2-(1-azidoethyl)-4-(4-fluorophenoxy)pyrimidine | 120 mg, 77% | N(=[N+]=[N-])C(C)C1=NC=CC(=N1)OC1=CC=C(C=C1)F | C12H10FN5O
